Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ yo woman with heroin use who presents with 
fever.  She uses 1 gram of heroin a day.  She used a new dealer 
today.  30 min after injection, she had rigors and subjective 
fevers.  During this, she had no chest pain, shortness of 
breath, or abdominal pain.  She denied a cough, swelling or 
redness of arm used for injection.  No other symptoms, rest of 
ROS are negative.  The patient is non participatory with some 
history / social history questions.

In the ED, initial VS were: 102.7 130 126/60 16 98%. Exam was 
notable for murmur. EKG showed ST.  Labs were notable for WBC 
13.2. The patient received CTX, vanc, and tylenol. Vitals prior 
to transfer to the floor were:  101.1, 104, 105/54, 20, 100RA.  
 
Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies chest pain or tightness, palpitations. Denies 
cough, shortness of breath, or wheezes. Denies nausea, vomiting, 
diarrhea, constipation, BRBPR, melena, or abdominal pain. No 
dysuria, urinary frequency. Denies arthralgias or myalgias. 
Denies rashes. No numbness/tingling or muscle weakness in 
extremities. No feelings of depression or anxiety. All other 
review of systems negative.  

 
Past Medical History:
Polysubstance abuse
Depression
 
Social History:
___
Family History:
not relevant to the current admission
 
Physical Exam:
VS: afebrile, VSS
GEN: NAD, sleepy, aox3
HEENT: MMM, OP clear
CARD: RRR, no m/r/g
PULM: CTAB
ABD: soft, NT, ND, no masses or oganomgealy
EXT: WWP, no c/c/e, no cellulitis or abscess at injection sites
NEURO: AOx3, somnolent but no focal deficits
 
Pertinent Results:
___ 02:25AM BLOOD WBC-13.2* RBC-3.91* Hgb-11.1* Hct-31.2* 
MCV-80* MCH-28.3 MCHC-35.4* RDW-13.5 Plt ___
Neuts-89.1* Lymphs-8.3* Monos-0.7* Eos-1.4 Baso-0.4
Glucose-100 UreaN-16 Creat-0.9 Na-133 K-3.2* Cl-100 HCO3-19* 
AnGap-17
ALT-17 AST-26 AlkPhos-48 TotBili-0.3
Lipase-13
cTropnT-<0.01
Albumin-4.0 Calcium-9.1

___ 06:45AM BLOOD WBC-8.9 RBC-4.36 Hgb-11.9* Hct-35.8* 
MCV-82 MCH-27.3 MCHC-33.3 RDW-13.4 Plt ___
___ 06:45AM BLOOD Glucose-90 UreaN-9 Creat-0.8 Na-138 K-4.8 
Cl-106 HCO3-23 AnGap-14

___ 03:40AM URINE  
UCG-NEGATIVE
COLOR-Straw APPEAR-Clear SP ___
BLOOD-SM NITRITE-NEG PROTEIN-NEG GLUCOSE-NEG KETONE-TR 
BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 LEUK-NEG
RBC-0 ___ BACTERIA-OCC YEAST-NONE ___

CXR ___
FINDINGS: There is no pneumonia. There is no pleural effusion or 

pneumothorax. Hilar, mediastinal, and cardiac silhouette are 
within normal 
limits. 
  
IMPRESSION: No pneumonia. 
 

 
Brief Hospital Course:
FEVER: u/a negative, cxr clear, blood cultures without growth by 
60 hours.  The patient was on vancomycin and ceftriaxone while 
inpt but given that her blood cultures had no growth these were 
discontinued, she left her phone number in case a blood culture 
returns positive and she needs to return to the hospital.  The 
likely source of the fever / rigors was transient bacteremia 
related to IV drug use.  No murmurs, ongoing fevers or + blood 
cultures suggestive of endocarditis.

HEROIN ABUSE:  The patient is willing to quit.  She completed 
her detox while inpt and will seek help from a clinic that has 
treated her with naltrexone in the past, she says that therapy 
had been very effective for her and that the inpatient rehabs 
had not been helpful.  She spoke with social work for help with 
resources to aide in heroin cessation.
 
Medications on Admission:
Zoloft (unsure of dose)
 
Discharge Medications:
1. Zoloft  Oral

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
Fever
Opiate (heroin) intoxication and withdrawal

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with a fever, this was likely 
from drug use.  Please return to the hospital if you have a 
fever, shaking chills, or any other symptoms of an infection.
 
Followup Instructions:
___